US07618985B2
Sodium triacetoxyborohydride (100 mg, 3.9 mol eq) was added to a solution of 1-chloro-6-(piperidin-3-yloxy)isoquinoline (40mg), acetic acid (1 drops) and benzaldehyde (40 μl) in N, N-dimethylformamide (0.5 ml) and shaken for 17 hours. The reactions were quenched with water (0.5 ml) and shaken for 1 h then loaded onto a pre-acidified SCX column using methanol and eluted with 2M ammonia in methanol. The product was concentrated in vacuo to give a residue which was treated with 5M aqueous hydrochloric acid and heated in the microwave at 180° C. for 60 minutes. The mixture was concentrated in vacuo to give a residue which was purified by prep-HPLC to give 6-(1-benzylpiperidin-3-yloxy)-2H-isoquinolin-1-one, El-MS: m/z=335.7 [M+H]+.

reactant | Sodium triacetoxyborohydride | 3.9 mol, 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-chloro-6-(piperidin-3-yloxy)isoquinoline | 40mg | ClC1=NC=CC2=CC(=CC=C12)OC1CNCCC1 | C14H15ClN2O
reactant | benzaldehyde | 40 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 5M | Cl | ClH
catalyst | acetic acid | 1 drops | C(C)(=O)O | C2H4O2
solvent | N, N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 6-(1-benzylpiperidin-3-yloxy)-2H-isoquinolin-1-one | C(C1=CC=CC=C1)N1CC(CCC1)OC=1C=C2C=CNC(C2=CC1)=O | C21H22N2O2
